US05109002
Ethyl-4-(4'-fluorophenyl)benzoate
Using the procedure of Example 551, 4-bromofluorobenzene (1.75 g, 10 mmol) was metallated and coupled with ethyl 4-bromobenzoate (2.28 g, 10 mmol) to give the title compound after chromatography (ethyl acetate-hexanes (1:9) (0.7 g)): 1H-NMR (CDCl3, 300 MHz): 8.1 (d, 2H, J=8), 7.65-7.5 (m, 4H), 7.15 (t, 2H, J=8), 4.4 (q, 2H, J=7), 1.4 (t, 3H, J=7); MS:244.

reactant | 4-bromofluorobenzene | 10 mmol, 1.75 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | ethyl 4-bromobenzoate | 10 mmol, 2.28 g | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
product | Ethyl-4-(4'-fluorophenyl)benzoate | C(C)OC(C1=CC=C(C=C1)C1=CC=C(C=C1)F)=O | C15H13FO2
